US07855215B2
Step 28.1: (4-Pyrrolidin-1-ylmethyl-3-trifluoromethyl-phenyl)-carbamic acid phenyl ester
A solution of 49 μl (0.39 mMol) phenyl chloroformiate in 1.5 ml THF is cooled to −70° C. Then a solution of 81 mg (0.33 mMol) 4-pyrrolidin-1-ylmethyl-3-trifluoromethyl-phenylamine and 0.3 ml pyridine in 1.5 ml THF is added dropwise. After 1 h, it is poured into a mixture of 20 g ice, 40 ml sat. Na2CO3/water 1:3 and 40 ml EtOAc. The aqueous layer is separated off and extracted 2× with EtOAc. The organic phases are washed with water and brine, dried (Na2SO4) and concentrated to the title compound: MS: [M+1]+=365; HPLC: AtRet=11.1.

reactant | 4-pyrrolidin-1-ylmethyl-3-trifluoromethyl-phenylamine | 0.33 mMol, 81 mg | N1(CCCC1)CC1=C(C=C(C=C1)N)C(F)(F)F | C12H15F3N2
reactant | pyridine | 0.3 ml | N1=CC=CC=C1 | C5H5N
reactant | Na2CO3 water | 40 ml | C(=O)([O-])[O-].[Na+].[Na+].O
reactant | EtOAc | 40 ml | CCOC(=O)C | C4H8O2
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | (4-Pyrrolidin-1-ylmethyl-3-trifluoromethyl-phenyl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=CC(=C(C=C1)CN1CCCC1)C(F)(F)F)=O | C19H19F3N2O2
